US04115438
A solution of 15.8 g. of 7-(6-hydroxycyclohex-2-enyl)hept-5Z-enoic acid (as obtained by ether-pentane extraction as described above) in 300 ml of acetone was stirred with ice-bath cooling as 30 ml of standard Jones reagent was added dropwise. The resultant mixture was stirred for 10 min at 0° and then quenched by the addition of several ml of isopropyl alcohol. After stirring for another 10 min at 0° the solvents were removed by evaporation in vacuo. The residue was dissolved in water and extracted several times with ether. The combined ether extracts were washed with brine, dried (MgSO4) and evaporated in vacuo to yield 13.0 g of crude 7-(6-oxocyclohex-2-enyl)hept-5Z-enoic acid as a yellow oil.

reactant | 7-(6-hydroxycyclohex-2-enyl)hept-5Z-enoic acid | OC1CCC=CC1C\C=C/CCCC(=O)O | C13H20O3
reactant | Jones reagent | 30 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 7-(6-oxocyclohex-2-enyl)hept-5Z-enoic acid | 13.0 g | O=C1CCC=CC1C\C=C/CCCC(=O)O | C13H18O3
